US03946022
A mixture of 27.6 g (0.1 mole) of α,α-diphenyl-4-piperidinemethanol, 21.6 g (0.11 mole) of 5-chlorovalerophenone, 20 g of potassium bicarbonate, and 0.1 g of potassium iodide in 300 ml of toluene and 25 ml of water is stirred and refluxed for 136 hours then worked up by the procedure described in Examples 2 and 3 to give 5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride, M.P. 162°-164°C.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.1 mole, 27.6 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 5-chlorovalerophenone | 0.11 mole, 21.6 g | ClCCCCC(=O)C1=CC=CC=C1 | C11H13ClO
reactant | potassium bicarbonate | 20 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 ml | O | H2O
product | 5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC=CC=C1 | InChI=1S/C29H33NO2.ClH/c31-28(24-12-4-1-5-13-24)18-10-11-21-30-22-19-27(20-23-30)29(32,25-14-6-2-7-15-25)26-16-8-3-9-17-26;/h1-9,12-17,27,32H,10-11,18-23H2;1H
